US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with 5-Bromo-pyrimidin-2-ylamine to produce N-(5-Bromo-pyrimidin-2-yl)-4-chloro-3-nitro-benzamide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 22A and 22B to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 5-Bromo-pyrimidin-2-ylamine | BrC=1C=NC(=NC1)N | C4H4BrN3
product | N-(5-Bromo-pyrimidin-2-yl)-4-chloro-3-nitro-benzamide | BrC=1C=NC(=NC1)NC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C11H6BrClN4O3
